US06063815
4-(5'-Benzoyl-[1,1';3',1"]terphenyl-2'-yloxysulfonyl)-2-hydroxy-benzoic acid
At ambient temperature, to a stirred solution of (2'-hydroxy-[1,1';3',1"]terphenyl-5'-yl)-phenyl-methanone (2.02 g, 5.77 mmol) in THF (55 mL) was added portionwise 4-chlorosulphonyl-2-hydroxybenzoic acid (2.70 g, 11.4 mmol, RN 98273-15-5) while maintaining the pH at 8 with the simultaneous addition of 0.5M aq. NaHCO3. After the addition was complete the reaction was stirred for 3.5 h. To the reaction was added 4-chlorosulphonyl-2-hydroxybenzoic acid (2.70 g, 11.4 mmol) while maintaining the pH at 8 with the simultaneous addition of 0.5 M aq. NaHCO3. After the addition was complete the reaction was stirred for 18 h. To the reaction was added 4-chlorosulphonyl-2-hydroxybenzoic acid (2.05 g, 8.66 mmol) while maintaining the pH at 8 with the simultaneous addition of 0.5M aq. NaHCO3. After 2h, the reaction was quenched with 2N HCl (25 mL), extracted with EtOAc and concentrated. Purification by preparative HPLC (C18, eluting with 75% CH3CN/H2O containing 0.1% TFA) and crystallization from EtOAc/hexane gave 0.65 g (20%) of the title compound as a yellow solid, mp 217° C.; 1H NMR (DMSO-d6) δ 6.60 (d, 1H), 6.74 (dd, 1H), 7.30-7.35 (m, 6H), 7.46-7.49 (m, 4H), 7.57-7.61 (m, 3H), 7.68-7.72 (m, 3H), 7.83-7.85 (m, 2H). mass spectrum (EI) ml/z 550 (M+). Anal. Calcd. for C32H22O7S 0.4H2O: C,68.91; H,4.12; N,0.00. Found: C,68.87; H,4.10; N,0.16.

reactant | (2'-hydroxy-[1,1';3',1"]terphenyl-5'-yl)-phenyl-methanone | 5.77 mmol, 2.02 g | OC1=C(C=C(C=C1C1=CC=CC=C1)C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C25H18O2
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 11.4 mmol, 2.70 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
reactant | NaHCO3 | 0.5M | C(=O)(O)[O-].[Na+]
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 11.4 mmol, 2.70 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
reactant | NaHCO3 | 0.5 M | C(=O)(O)[O-].[Na+]
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 8.66 mmol, 2.05 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
reactant | NaHCO3 | 0.5M | C(=O)(O)[O-].[Na+]
solvent | THF | 55 mL | C1CCOC1 | C4H8O
product | 4-(5'-Benzoyl-[1,1';3',1"]terphenyl-2'-yloxysulfonyl)-2-hydroxy-benzoic acid | 0.65 g, 20% | C(C1=CC=CC=C1)(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C1=CC=CC=C1 | C32H22O7S
